US05817647
E-5-Tosyloxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester
A mixture of E-5-hydroxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester (1.07 g, 4.6 mmol), triethylamine (0.7 ml, 5 mmol), tosylchloride (0.96 g, 5 mmol) and dimethylaminopyridine (0.005 g, 0.04 mmol) in anhydrous and dichloromethane is stirred 4 hours at 20° C., concentrated in vacuo and the title product is obtained by flash chromatography on silica gel (1.55 g, 87%).

reactant | E-5-hydroxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester | 4.6 mmol, 1.07 g | C(C)OP(OCC)(=O)\C=C\C(CCO)=C | C10H19O4P
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | tosylchloride | 5 mmol, 0.96 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | dimethylaminopyridine | 0.04 mmol, 0.005 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | E-5-Tosyloxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)\C=C\C(CCOS(=O)(=O)C1=CC=C(C)C=C1)=C | C17H25O6PS
